US08975443B2
1-Butoxy-2-methoxybenzene
In a nitrogen-atmosphere glovebox, a 40-mL scintillation vial equipped with a magnetic stir bar was charged with palladium(II) acetate (3.2 mg, 0.014 mmol, 0.01 equivalents), 7,7,9,9-tetramethyl-8-(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)-1,4-dioxa-8-phosphaspiro[4.5]decane (8.6 mg, 0.015 mmol, 0.011 equivalents) and cesium carbonate (686 mg, 2.10 mmol, 1.5 equivalents). The solids were then slurried in toluene (2.8 mL) and n-butanol (385 μL, 4.21 mmol, 3 equivalents). 2-Chloroanisole (178 μL, 1.40 mmol, 1 equivalent) was added by syringe, then the vial was sealed with a polytetrafluoroethylene (PTFE) screw cap septum and heated to 110° C. for 19 hours. After cooling the reaction to room temperature, the vial was brought outside the glovebox. The reaction mixture was diluted with ethyl acetate (2 mL) and filtered through a pad of diatomaceous earth. After the vial was rinsed with ethyl acetate (2×2 mL) and filtered, the filter cake was washed with ethyl acetate (2 mL). The ethyl acetate was carefully removed on a rotary evaporator. A weight percent (wt %) analysis was then performed on the crude concentrate to determine an assay yield of 62% (literature reference: Wolter M, et al. Org. Lett. 2002; 4: 973-976). 1H NMR (400 MHz, CDCl3) δ ppm 6.96-6.84 (m, 4H), 4.03 (t, J=6.8 Hz, 2H), 3.87 (s, 3H), 1.91-1.78 (m, 2H), 1.57-1.44 (m, 2H), 0.99 (t, J=7.4 Hz, 3H).

reactant | 7,7,9,9-tetramethyl-8-(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)-1,4-dioxa-8-phosphaspiro[4.5]decane | 0.015 mmol, 8.6 mg, 0.011 equivalents | CC1(CC2(OCCO2)CC(P1C1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)(C)C)C | C34H51O4P
reactant | cesium carbonate | 2.10 mmol, 686 mg, 1.5 equivalents | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | n-butanol | 4.21 mmol, 385 μL, 3 equivalents | C(CCC)O | C4H10O
reactant | 2-Chloroanisole | 1.40 mmol, 178 μL, 1 equivalent | ClC1=C(C=CC=C1)OC | C7H7ClO
reactant | polytetrafluoroethylene | FC(C(F)(F)[*:1])(F)[*:2]
solvent | toluene | 2.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | 0.014 mmol, 3.2 mg, 0.01 equivalents | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-Butoxy-2-methoxybenzene | yield of 62% | C(CCC)OC1=C(C=CC=C1)OC | C11H16O2
